US07435815B2
N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-benzyl-N-ethylamine and N-(2-methoxy-phenyl)-2-methyl-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
reactant | N-(2-methoxy-phenyl)-2-methyl-benzenesulfonamide | COC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC=C1)C | C14H15NO3S
product | N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CC | C25H28N2O4S
